US06946489B2
e) 2-[3-(N-Hydroxycarbamimidoyl)phenoxy]pentanoic acid (2′-methanesulfonylbiphenyl-4-yl)amide hydrochloride (27)
A solution of 100 mg (0.208 mmol) of 2-[3-(N-hydroxycarbamimidoyl)phenoxy]pentanoic acid (2′-methanesulfonylbiphenyl-4-yl)amide in 5 ml of methanol is treated with 2.08 ml of a 0.1 N solution of hydrogen chloride in isopropanol. The solution is evaporated. A colourless solid is obtained; FAB 482

reactant | 2-[3-(N-hydroxycarbamimidoyl)phenoxy]pentanoic acid (2′-methanesulfonylbiphenyl-4-yl)amide | 0.208 mmol, 100 mg | CS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)NC(C(CCC)OC1=CC(=CC=C1)C(NO)=N)=O | C25H27N3O5S
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2-[3-(N-Hydroxycarbamimidoyl)phenoxy]pentanoic acid (2′-methanesulfonylbiphenyl-4-yl)amide hydrochloride | Cl.CS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)NC(C(CCC)OC1=CC(=CC=C1)C(NO)=N)=O | InChI=1S/C25H27N3O5S.ClH/c1-3-7-22(33-20-9-6-8-18(16-20)24(26)28-30)25(29)27-19-14-12-17(13-15-19)21-10-4-5-11-23(21)34(2,31)32;/h4-6,8-16,22,30H,3,7H2,1-2H3,(H2,26,28)(H,27,29);1H
